US06316450B1
7-Amino-5-bromo-2,3-dihydrobenzofuran (D14)
Concentrated sulfuric acid (8.8 ml) was added over 5 min to a stirred mixture of 5-bromo-2,3 -dihydrobenzofuran-7-carboxylic acid (0.55 g, 2.3 mmol) in chloroform (27 ml) at 45° C. Sodium azide (0.737 g, 11.3 mmol) was then added portion-wise over 0.5 h and the temperature was maintained for a further 1 h after which time the mixture was poured onto ice (100 g) and extracted with chloroform (2×50 ml). The aqueous phase was basified to pH 12 with 40% sodium hydroxide solution and extracted with chloroform (2×50 ml). The extract was dried (Na2SO4), concentrated, and the residue purified by column chromatography over silica gel eluting with a gradient of acetone/toluene to give the title compound (D14) as a solid (63 mg, 13%), MH+ 214/216.

reactant | sulfuric acid | 8.8 ml | S(O)(O)(=O)=O | H2O4S
reactant | 5-bromo-2,3 -dihydrobenzofuran-7-carboxylic acid | 2.3 mmol, 0.55 g | BrC=1C=C(C2=C(CCO2)C1)C(=O)O | C9H7BrO3
reactant | Sodium azide | 11.3 mmol, 0.737 g | [N-]=[N+]=[N-].[Na+]
solvent | chloroform | 27 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-Amino-5-bromo-2,3-dihydrobenzofuran | 63 mg, 13% | NC1=CC(=CC=2CCOC21)Br | C8H8BrNO
